US04374267
reacting the fluorophthalic anhydride with ammonia to form an ammonium salt of a fluorophthalamic acid, and

reactant | fluorophthalic anhydride | FC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3FO3
reactant | ammonia | N | H3N
product | fluorophthalamic acid | FC1=C(C(C(=O)O)=CC=C1)C(=O)N | C8H6FNO3
